US06468607B1
To a solution of 200 g of 2-bromo-6-methoxynaphthalene and 2.5 g of dichloro[1,2-bis(diphenylphosphino)ethane]nickel (II) in 200 ml of tetrahydrofuran (THF) was added dropwise a Grignard reagent prepared from 125 g of propyl bromide and 27 g of magnesium under nitrogen atomsphere. The reaction mixture was further stirred for 1 hour, and then poured into water. To the reaction mixture was then added diluted hydrochloric acid. The resulting organic phase was then separated. The resulting aqueous phase was extracted with toluene. The organic phase and the material thus extracted were together washed sequentially with water, saturated aqueous solution of sodium bicarbonate, water and saturated brine, and then dehydrated and dried over anhydrous sodium sulfate. The solvent was then distilled off to obtain 172 g of 2-methoxy-6-propylnaphthalene.

reactant | 2-bromo-6-methoxynaphthalene | 200 g | BrC1=CC2=CC=C(C=C2C=C1)OC | C11H9BrO
reactant | propyl bromide | 125 g | C(CC)Br | C3H7Br
reactant | magnesium | 27 g | [Mg] | Mg
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | dichloro[1,2-bis(diphenylphosphino)ethane]nickel (II) | 2.5 g | C1=CC=C(C=C1)P(CCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.Cl[Ni]Cl
solvent | water | O | H2O
product | 2-methoxy-6-propylnaphthalene | 172 g | COC1=CC2=CC=C(C=C2C=C1)CCC | C14H16O
